US03948939
Pivaloyloxymethyl 9-benzoyl-1,2,3,4-tetrahydrocarbazole-3-carboxylate
A mixture of 12.8 g. of 9-benzoyl-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid, 20 g. of potassium bicarbonate, 12 ml. of chloromethyl pivalate in 50 ml. of dry dimethylformamide was stirred and heated on a steambath for two hours. The mixture was cooled and diluted with ether, the ether mixture was washed several times with water, dried over magnesium sulfate, and evaporated under reduced pressure to dryness to give 10.6 g. of the title compound; m.p. 75°-77°C. (methyl alcohol).

reactant | 9-benzoyl-1,2,3,4-tetrahydrocarbazole-3-carboxylic acid | C(C1=CC=CC=C1)(=O)N1C2=CC=CC=C2C=2CC(CCC12)C(=O)O | C20H17NO3
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | chloromethyl pivalate | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | Pivaloyloxymethyl 9-benzoyl-1,2,3,4-tetrahydrocarbazole-3-carboxylate | C(C1=CC=CC=C1)(=O)N1C2=CC=CC=C2C=2CC(CCC12)C(=O)OCOC(C(C)(C)C)=O | C26H27NO5
